US07319152B2
5-(3,4-difluorophenyl)-3,3-dimethylindan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3,4-difluorophenyl boronic acid according to the procedure described in example 21. MS m/z 273; HRMS: calcd for C17H14F2O+H+, 273.10855; found (ESI, [M+H]+), 273.1078.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3,4-difluorophenyl boronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 5-(3,4-difluorophenyl)-3,3-dimethylindan-1-one | FC=1C=C(C=CC1F)C=1C=C2C(CC(C2=CC1)=O)(C)C | C17H14F2O
